* source LAB 1
M_M1         N00310 N00314 N00292 N00292 Mbreakp           
M_M2         N00310 N00314 0 0 Mbreakn           
V_V1         N00314 0  
+PULSE 5V 0V 0 .111us .111us .444us 1.11us
V_V2         N00292 0 5V
